US05928562
Preparation of 5-Decyloxy-2-[4-(3-(2,2,3,3,4,4,4-heptafluorobutoxy)propoxy)phenyl]pyrimidine
The title compound was prepared essentially as in Example 1 by combining 3-(2,2,3,3,4,4,4-heptafluorobutoxy)propyl chloride (4.1 g of 68% purity, 10.7 mmol, prepared from 1,3-dichloropropane and 2,2,3,3,4,4,4-heptafluorobutanol) with 5-decyloxy-2-(4-hydroxyphenyl)pyrimidine (3.5 g, 10.7 mmol). The resulting crude product was isolated essentially as described in Example 3 and purified by chromatography on silica gel, eluting with 10 vol. % ethyl acetate in hexane, followed by Kugelrohr distillation (220° C. at 0.5 torr) to provide a yield of 4.8 g.

reactant | 3-(2,2,3,3,4,4,4-heptafluorobutoxy)propyl chloride | 10.7 mmol, 4.1 g | FC(COCCCCl)(C(C(F)(F)F)(F)F)F | C7H8ClF7O
reactant | 5-decyloxy-2-(4-hydroxyphenyl)pyrimidine | 10.7 mmol, 3.5 g | C(CCCCCCCCC)OC=1C=NC(=NC1)C1=CC=C(C=C1)O | C20H28N2O2
product | 5-Decyloxy-2-[4-(3-(2,2,3,3,4,4,4-heptafluorobutoxy)propoxy)phenyl]pyrimidine | C(CCCCCCCCC)OC=1C=NC(=NC1)C1=CC=C(C=C1)OCCCOCC(C(C(F)(F)F)(F)F)(F)F | C27H35F7N2O3
